reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]=[C:2]([N:3]([C:4]([C:5](=[C:6]=[C:7]([H:12])[H:14])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],82.16003868078573
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O+:5]=[C-:4][C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],51.184233609594614
[O:1]([C+:2]=[C:3]([O-:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],33.699703621820014
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]1([C:6]([O:7][H:13])([H:12])[H:14])[C:4]([H:11])=[N:5]1)([H:9])[H:10])[H:8],82.4769994547701
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2]([C:3]([C:5](=[C:4])[H:10])([H:8])[H:9])[C:6]#[N:7],64.5928258748588
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6][N:7]1[H:9],95.6724442441322
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([O:4][C:3](=[C:2]([H:8])[H:9])[C:5](=[O:6])[H:10])[H:7],121.454594301215
[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([H:12])[H:13])([O:7][H:14])[H:11])([H:9])[H:10])[H:8],82.16747204899909
[C:2]1[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11].[O:1]([H:7])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],6.846558231114301
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:6](=[O:7])[H:16])[H:11])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14],104.549230326591
[C:1]([O:4]/[C:3](=[N:2]/[H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],56.9196801474847
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([H:6])([H:8])[H:9])([O+:4]=[C-:3][H:10])([H:5])[H:7],115.89401831928801
[N:1]1([H:6])[C:2]([H:7])=[N:3][C:4]([H:8])([H:9])[O:5]1>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],61.1292794149566
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:9])([H:10])[H:11])([N:6]=[C:5]=[C:3]([N:4]([H:13])[H:14])[H:12])([H:7])[H:8],101.677260123578
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2]([N:7]=[C:6]=[C:5]([H:12])[H:13])[H:9])[H:8].[O:3]=[C:4]([H:10])[H:11],82.8186683418551
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[O:6])[H:16])([H:14])[H:15],93.6436730502629
[C:1]([C:2][C:3]([C:4]1([O:5][H:14])[C:6]([H:15])([H:16])[C:7]1([H:11])[H:17])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],22.152387797081396
[C:1](#[C:2][C:4](/[C:3](=[N:5]/[H:10])[H:7])([H:8])[H:9])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],103.06717725266661
[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],55.6278375281494
[C-:3]#[O+:4].[C:1]([N:2]([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],84.97613940947831
[O:1]1[C@@:2]2([H:8])[C@@:3]3([H:9])[C:4]([H:10])([H:11])[N:5]3[C@:6]1([H:12])[O:7]2>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],23.887406838707996
[C:1]([O:2][C:3]([O+:5]=[C-:4][H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],44.068785665984585
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:6][C:5](=[N+:3]([C-:2]([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:8])([H:9])[H:10],103.19405868245701
[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[O:3])=[C:4]([C:5]([O:6][H:14])([H:12])[H:13])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],64.59361636381549
[C:1]([O:2][C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])[H:12])([H:9])[H:10].[H:8][H:11],83.64570107319109
